US04383945
Silver tetrafluoroborate (323 mg) was added to a stirred mixture of methyl 2-[(3S,4R)-4-chloro-2-oxo-3-phthalimidoazetidin-1-yl]-3-methylbut-2-enoate (500 mg) and methyl 3-(trimethylsilylmethyl)-but-3-enoate (460 mg) in dichloromethane (2.5 ml) at -78° C. under a nitrogen atmosphere. The stirring mixture was gradually allowed to warm to 0° C. during one hour and kept at 0° C. for 1.5 hours. A saturated aqueous sodium chloride (2 ml) was added and the heterogeneous mixture was brought to pH 7 with a saturated aqueous sodium bicarbonate. After stirring for 15 minutes, the mixture was diluted with ethyl acetate and filtered through a pad of Celite. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel (10 g) eluting with a mixture of benzene and acetone (5:1). Further purification on a silica gel (10 g) eluting with 10-20% ethyl acetate in dichloromethane) afforded methyl 2-[(3R,4R)-4-[2-(methoxycarbonylmethyl)allyl]-2-oxo-3-phthalimidoazetidin-1-yl]-3-methylbut-2-enoate (483 mg) as an oil.

reactant | methyl 2-[(3S,4R)-4-chloro-2-oxo-3-phthalimidoazetidin-1-yl]-3-methylbut-2-enoate | 500 mg | Cl[C@@H]1[C@H](C(N1C(C(=O)OC)=C(C)C)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C17H15ClN2O5
reactant | methyl 3-(trimethylsilylmethyl)-but-3-enoate | 460 mg | C[Si](C)(C)CC(CC(=O)OC)=C | C9H18O2Si
reactant | sodium chloride | 2 ml | [Cl-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Silver tetrafluoroborate | 323 mg | F[B-](F)(F)F.[Ag+]
product | methyl 2-[(3R,4R)-4-[2-(methoxycarbonylmethyl)allyl]-2-oxo-3-phthalimidoazetidin-1-yl]-3-methylbut-2-enoate | 483 mg | COC(=O)CC(C[C@@H]1[C@H](C(N1C(C(=O)OC)=C(C)C)=O)N1C(C=2C(C1=O)=CC=CC2)=O)=C | C23H24N2O7
